US06787281B2
Synthesis of 2-methoxy-4-(phenylamino)-benzenediazonium octyl sulfate (MSOS) acid generator.
64.0 g of 35% sodium octyl sulfate (Aldrich, Milwaukee, Mich.) in water was slowly added in 31.0 g of 2-methoxy-4-(phenylamino)-benzenediazonium bisulfate (Diverstec, Fort Collins, Colo.) in 500 ml of water while stirring. The mixture was stored in dark at 0-5° C. for 5 hours. After decanting water, the resulting oil material was dissolved in 200 ml ethyl acetate. The solution was washed with 50 ml of 5% NaHCO3 and then with 50 ml of water. The organic layer was dried over anhydrous MgSO4 for 6 hours, and the solvent was removed by vacuum. 35.1 g of oil material was obtained.

reactant | sodium octyl sulfate | 64.0 g | S(=O)(=O)(OCCCCCCCC)[O-].[Na+]
reactant | 2-methoxy-4-(phenylamino)-benzenediazonium bisulfate | 31.0 g | S([O-])(O)(=O)=O.COC1=C(C=CC(=C1)NC1=CC=CC=C1)[N+]#N
solvent | water | O | H2O
solvent | water | 500 ml | O | H2O
product | 2-methoxy-4-(phenylamino)-benzenediazonium octyl sulfate | 35.1 g | C(CCCCCCC)OS(=O)(=O)[O-].COC1=C(C=CC(=C1)NC1=CC=CC=C1)[N+]#N | InChI=1S/C13H12N3O.C8H18O4S/c1-17-13-9-11(7-8-12(13)16-14)15-10-5-3-2-4-6-10;1-2-3-4-5-6-7-8-12-13(9,10)11/h2-9,15H,1H3;2-8H2,1H3,(H,9,10,11)/q+1;/p-1
